US07285563B2
2-Bromo-4-fluorobenzaldehyde
To a −78° C. cooled solution of oxalyl chloride (8.43 ml; 96.58 mmol) in anhydrous dichloromethane (300 ml) was added dropwise dimethyl sulfoxide (13.71 ml; 193.16 mmol). The mixture was stirred at −78° C. for 5 minutes then a solution of (2-bromo-4-fluorophenyl)methanol (Description 77, 18 g; 87.8 mmol) in anhydrous dichloromethane (150 ml) was added slowly. The resulting mixture was stirred at −78° C. for 15 minutes then triethylamine (36.71 ml; 263.4 mmol) was added and the mixture allowed to warm to room temperature over 1 hour. The mixture was washed with water (2×500 ml), saturated NaCl (200 ml), dried over Na2SO4, filtered through a 2 inch plug of silica gel and evaporated to give the title compound (16 g, 89%) as a white solid.

reactant | oxalyl chloride | 96.58 mmol, 8.43 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethyl sulfoxide | 193.16 mmol, 13.71 ml | CS(=O)C | C2H6OS
reactant | (2-bromo-4-fluorophenyl)methanol | 87.8 mmol, 18 g | BrC1=C(C=CC(=C1)F)CO | C7H6BrFO
reactant | triethylamine | 263.4 mmol, 36.71 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | 2-Bromo-4-fluorobenzaldehyde | 16 g, 89% | BrC1=C(C=O)C=CC(=C1)F | C7H4BrFO
